US04036975
1-adamantyl bromomethyl ketone (1.3 g.), 1.1 g. of 3,4-dichlorothiophenol and 800 mg. of anhydrous potassium carbonate in 30 ml. of acetone are stirred at reflux overnight. The solvent is then removed and 60 ml. of water is added to the reaction mixture. The product is filtered off, washed with water and recrystallized from methanol to yield 1-adamantyl 3,4-dichlorophenylthiomethyl ketone, M.P. 105°-110.5° C.

reactant | 1-adamantyl bromomethyl ketone | 1.3 g | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
reactant | 3,4-dichlorothiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-adamantyl 3,4-dichlorophenylthiomethyl ketone | ClC=1C=C(C=CC1Cl)SCC(=O)C12CC3CC(CC(C1)C3)C2 | C18H20Cl2OS
